US07834021B2
To a solution of 8-(5-bromopyridin-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (0.50 g, 1.59 mmol) in THF (7.5 mL) was dropwise added isopropyl magnesium chloride (2 M in THF, 1.8 mL) at rt. After stirred for 1 hour, the solution was degassed with N2 three times. To another degassed solution of THF (2.5 mL) at rt was added nickel acetylacetonate (20 mg, 0.080 mmol) and 1,2-bis(diphenylphosphino)-ethane (32 mg, 0.080 mmol) under N2 flush. After stirred for 10 mins, 2-chloropyrazine (0.155 mL, 1.59 mmol) was added in, and the resulting mixture was stirred for 30 minutes. The mixture was then transferred to a freshly prepared solution of the Grignard reagent prepared previously. The mixture was stirred at rt for 18 hours, and was quenched with saturated NH4Cl solution. The aqueous solution was extracted with ethyl acetate, and the combined organic phase was washed with saline solution (2×50 mL), dried over MgSO4, concentrated in vacuo. The residue was chromatographed on SiO2, eluted with hexane/ethyl acetate (1 to 1), and the appropriate fractions were collected to provide 8-(5-pyrazin-2-ylpyridin-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (95 mg, 19%) as an oil. LCMS: 314.2 (M+H+, 100%).

reactant | 8-(5-bromopyridin-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 1.59 mmol, 0.50 g | BrC=1C=CC(=NC1)C1(CCC2(OCCO2)CC1)O | C13H16BrNO3
reactant | isopropyl magnesium chloride | 2 M, 1.8 mL | C(C)(C)[Mg]Cl
reactant | 1,2-bis(diphenylphosphino)-ethane | 0.080 mmol, 32 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | 2-chloropyrazine | 1.59 mmol, 0.155 mL | ClC1=NC=CN=C1 | C4H3ClN2
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
catalyst | nickel acetylacetonate | 0.080 mmol, 20 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 8-(5-pyrazin-2-ylpyridin-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 95 mg, 19% | N1=C(C=NC=C1)C=1C=CC(=NC1)C1(CCC2(OCCO2)CC1)O | C17H19N3O3
